US07956216B2
A mixture of N-n-propyl-3-iodobenzamide, phenylacetylene (1.5 eq.) and Pd(PPh3)2Cl2 (5 mol %) in piperidine (3 eq.) was heated at 70° C. for 30 minutes in a sealed tube. The solidified residue was dissolved with CH2Cl2 and water and poured onto HCl 2N. The acidic phase was extracted three times with CH2Cl2. The combined organic layers were washed once with HC 2N, twice with saturated NaHCO3, once with water and once with brine. The organic layer was then dried over MgSO4 and concentrated. The resulting residue was purified using SiO2 with CH2Cl2/petroleum ether 80:20 to CH2Cl2 100% to give N-n-propyl-3-phenylethynyl-benzamide as a yellow solid (Quantitative yield). NMR 1H (ppm, CDCl3): 7.88 (s, 1H), 7.74-7.68 (m, 1H), 7.63-7.60 (m, 1H), 7.53-7.50 (m, 2H), 7.42-7.33 (m, 4H), 6.22 (br. s., 1H), 3.44-3.38 (m, 2H), 1.64 (sext., J3=7.3 Hz, 2H), 0.98 (t, J3=7.3 Hz, 3H).

reactant | N-n-propyl-3-iodobenzamide | C(CC)NC(C1=CC(=CC=C1)I)=O | C10H12INO
reactant | phenylacetylene | 1.5 eq. | C1(=CC=CC=C1)C#C | C8H6
reactant | piperidine | 3 eq. | N1CCCCC1 | C5H11N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | N-n-propyl-3-phenylethynyl-benzamide | Quantitative yield | C(CC)NC(C1=CC(=CC=C1)C#CC1=CC=CC=C1)=O | C18H17NO
